US08871756B2
1-Amino-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-2-ol
The title compound was prepared in analogy to Example 9-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1,3-diaminopropan-2-ol. MS obsd. (ESI+) [(M+H)+] 427, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (d, J=2.0 Hz, 1 H), 7.86 (d, J=1.8 Hz, 1 H), 7.62 (t, J=3.7 Hz, 1 H), 7.57 (s, 1 H), 7.44 (t, J=3.8 Hz, 2 H), 7.30-7.27 (m, J=2.5 Hz, 1 H), 6.09 (s, 1 H), 5.15 (s, 2 H), 4.53 (brs, 2 H), 3.97-3.91 (m, J=5.8 Hz, 2 H), 3.58 (t, J=2.4 Hz, 2 H), 3.66-3.41 (m, J=3.3 Hz, 2 H), 2.90 (dd, J=4.2, 0.90 Hz, 1 H), 2.77 (dd, J=5.2, 0.9 Hz, 1 H), 2.42 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1,3-diaminopropan-2-ol | NCC(CN)O | C3H10N2O
product | 1-Amino-3-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]amino}propan-2-ol | NCC(CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)O | C22H26N4O3S
